US08350052B2
Preparation of 2-[1(1-benzyl-1H-indazol-3-yl)methoxy]-2-methylpropanoic acid
Ethyl-2-hydroxyisobutyrate (18.5 g, 140 mmol, 1.2 eq.), toluene (100 mL) and DMF (20 mL) were placed in a three-necked flask fitted with a mechanical stirrer and a reflux condenser under an inert atmosphere. A dispersion of 60% NaH (5.6 g, 140 mmol, 1.2 eq.) was added to the mixture in portions over a period of approximately 1.5 hours. A solution of 1-benzyl-3-chloromethyl-1H-indazole (30 g, 117 mmol, 1 eq.) in toluene (90 mL) and DMF (60 mL) was then added dropwise. The reaction mixture was heated to approximately 90° C. and kept at that temperature until the reaction was complete (checked by TLC, approximately 10 hours). After cooling to room temperature the mixture was washed with acidified water and water. The organic phase was concentrated under reduced pressure and the oily residue obtained was treated with 10 M NaOH (36 mL) at reflux temperature for at least 3 hours. The product, which was precipitated out by the addition of concentrated HCl, was filtered and dried. Yield: 32.3 g of white solid (85%).

reactant | Ethyl-2-hydroxyisobutyrate | 140 mmol, 18.5 g, 1.2 eq. | C(C)OC(C(C)(C)O)=O | C6H12O3
reactant | NaH | 140 mmol, 5.6 g, 1.2 eq. | [H-].[Na+]
reactant | 1-benzyl-3-chloromethyl-1H-indazole | 117 mmol, 30 g, 1 eq. | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CCl | C15H13ClN2
reactant | NaOH | 10 M, 36 mL | [OH-].[Na+]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[1(1-benzyl-1H-indazol-3-yl)methoxy]-2-methylpropanoic acid | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)COC(C(=O)O)(C)C | C19H20N2O3
